US04835158
5,14-Dihydro-2-hydroxy-7-methylbenz[5,6]isoindolo[2,1-b]isoquinoline-8,13-dione
A mixture of 6-hydroxy-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (2 g) and 1,4-naphthalenedione (3.4 g) in acetic anhydride (150 ml) was stirred in an oil bath at 100° C. for 15 minutes. It was then allowed to cool to room temperature and the green solid (2.74 g) was collected by filtration, washed with acetic anhydride and ether and dried at 100° C. for 2 h in vacuo, to give the title compound m.p. 275°-320° C. (decomp), λmax (in ethanol) 244.5 nm (ε26,220) 318 nm (ε4,510) and 383 nm (ε6,390).

reactant | 6-hydroxy-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 2 g | OC=1C=C2CC(NCC2=CC1)C(=O)O | C10H11NO3
reactant | 1,4-naphthalenedione | 3.4 g | C1(C=CC(C2=CC=CC=C12)=O)=O | C10H6O2
reactant | acetic anhydride | 150 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5,14-Dihydro-2-hydroxy-7-methylbenz[5,6]isoindolo[2,1-b]isoquinoline-8,13-dione | OC=1C=C2CC=3N(CC2=CC1)C(=C1C(C2=C(C(C13)=O)C=CC=C2)=O)C | C21H15NO3
